US07192657B2
Pd(PPh3)4 (71.6 mg, 0.1 mmol) and CuI (23.6 mg, 0.1 mmol) were added to a mixture of 2,(2,5-dibromophenyl)-5-[4-octyloxy)phenyl]-1,3,4-oxadiazole (3.20 g, 6.3 mmol) and phenyl acetylene (1.29 g, 12.6 mmol) in 20 mL of dry Et3N. The reaction mixture was magnetically stirred for 3 h under reflux. The cooled reaction mixture was poured into an excess amount of methanol and the precipitate was collected by filtration. Re-crystallization from methylene chloride/hexane gave 2-(2,5-bis-phenylethynylphenyl)-5-(4-octyloxyphenyl)-[1,3,4]oxadiazole (2.50 g, 72% yield).

reactant | 1,3,4-oxadiazole | 6.3 mmol, 3.20 g | O1C=NN=C1 | C2H2N2O
reactant | phenyl acetylene | 12.6 mmol, 1.29 g | C1(=CC=CC=C1)C#C | C8H6
reactant | methanol | CO | CH4O
reactant | methylene chloride hexane | C(Cl)Cl.CCCCCC
reactant | Et3N | 20 mL | CCN(CC)CC | C6H15N
catalyst | Pd(PPh3)4 | 0.1 mmol, 71.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.1 mmol, 23.6 mg | [Cu]I
product | 2-(2,5-bis-phenylethynylphenyl)-5-(4-octyloxyphenyl)-[1,3,4]oxadiazole | 2.50 g, 72% yield | C1(=CC=CC=C1)C#CC1=C(C=C(C=C1)C#CC1=CC=CC=C1)C=1OC(=NN1)C1=CC=C(C=C1)OCCCCCCCC | C38H34N2O2
